US05155122
In a manner analogous to Example 70, 0.8 g (0.002 mole) of 4-[3-(chloromethyl)-1,2,4-oxadiazol-5-y]-2,6-bis(1,1-dimethylethyl)phenol is reacted with excess monomethylamine gas to give 0.2 g (31%) of analytically pure 2,6-bis(1,1-dimethylethyl)-4-[3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl]phenol, mp 120°-122° C.

reactant | 4-[3-(chloromethyl)-1,2,4-oxadiazol-5-y]-2,6-bis(1,1-dimethylethyl)phenol | 0.002 mole, 0.8 g | ClCC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H23ClN2O2
reactant | monomethylamine | CN | CH5N
product | 2,6-bis(1,1-dimethylethyl)-4-[3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl]phenol | CC(C)(C)C1=C(C(=CC(=C1)C1=NC(=NO1)CNC)C(C)(C)C)O | C18H27N3O2
